data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-c1ccsc1_2-c1ccccc1_3-c1ccccc1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(c1ccsc1)(=S)N","C(c1ccccc1)(=O)C(c1ccccc1)Cl"],"products_smiles": ["c1ccsc1c1nc(c1ccccc1)c(c1ccccc1)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccsc1)(=[NH2+])SC(c1ccccc1)C(c1ccccc1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)(=N)SC(c1ccccc1)C(c1ccccc1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccsc1C1=[NH+]C(c1ccccc1)(O)C(c1ccccc1)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccsc1C1=NC(c1ccccc1)([OH2+])C(c1ccccc1)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccsc1c1nc(c1ccccc1)c(c1ccccc1)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-122_1-P(=O)(OCC)OCC_2-c1ccc([N+](=O)[O-])cc1_3-c1ccccc1_4-c1occc1","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)c1occc1","C(P(=O)(OCC)OCC)c1ccc([N+](=O)[O-])cc1"],"products_smiles": ["C(=C(P(=O)(OCC)OCC)c1ccc([N+](=O)[O-])cc1)(c1ccccc1)c1occc1"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1ccccc1)c1occc1","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](P(=O)(OCC)OCC)c1ccc([N+](=O)[O-])cc1","rationale": "The basic nitrogen abstracts an acidic α-proton from P(=O)(OCC)OCC–c1ccc([N+](=O)[O-])cc1 methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1ccccc1)c1occc1)(P(=O)(OCC)OCC)c1ccc([N+](=O)[O-])cc1","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1ccccc1)c1occc1)(P(=O)(OCC)OCC)c1ccc([N+](=O)[O-])cc1","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(P(=O)(OCC)OCC)c1ccc([N+](=O)[O-])cc1)(c1ccccc1)c1occc1","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
